US08957074B2
Following general N—C coupling procedure 1, tert-butyl-3-(6-aminopyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate (119 mg, 0.359 mmol) was combined with 2-chloro-7-cyclobutyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (100 mg, 0.359 mmol) which gave tert-butyl 3-(6-(7-cyclobutyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate (150 mg) in 73% yield. MS m/z 575.2 (M+H)+.

reactant | tert-butyl-3-(6-aminopyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate | 0.359 mmol, 119 mg | C(C)(C)(C)OC(=O)N1C2CN(C(CC1CC2)=O)C=2C=NC(=CC2)N | C17H24N4O3
reactant | 2-chloro-7-cyclobutyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.359 mmol, 100 mg | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCC2 | C13H15ClN4O
product | tert-butyl 3-(6-(7-cyclobutyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate | 150 mg, 73% yield | C1(CCC1)N1C(=CC2=C1N=C(N=C2)NC2=CC=C(C=N2)N2CC1CCC(CC2=O)N1C(=O)OC(C)(C)C)C(N(C)C)=O | C30H38N8O4
